US04567184
Methyl-3-[[3-[1-(tetrahydro-2H-pyran-2-yloxy)hexyl]phenoxy]methyl]benzoate
To a solution of methyl-3-[[3-(1-hydroxyhexyl)phenoxy]methyl]benzoate (2.2 g), dihydropyran (2.3 ml) and ethyl ether was added a catalytic amount of para-toluene sulfonic acid. The reaction was stirred at room temperature for four days. The ethyl ether was removed in vacuo and the remaining oil was purified by HPLC on silica gel using 7:93 ratio of ethyl acetate/hexanes as an eluent (1.8 g., 67% yield).

reactant | methyl-3-[[3-(1-hydroxyhexyl)phenoxy]methyl]benzoate | 2.2 g | COC(C1=CC(=CC=C1)COC1=CC(=CC=C1)C(CCCCC)O)=O | C21H26O4
reactant | dihydropyran | 2.3 ml | O1CCCC=C1 | C5H8O
reactant | para-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyl ether | C(C)OCC | C4H10O
product | Methyl-3-[[3-[1-(tetrahydro-2H-pyran-2-yloxy)hexyl]phenoxy]methyl]benzoate | 67% yield | COC(C1=CC(=CC=C1)COC1=CC(=CC=C1)C(CCCCC)OC1OCCCC1)=O | C26H34O5
